US08106064B2
To a stirred solution of benzoic acid 2,3,6-trifluoro-pyridin-4-ylmethyl ester (3.43 g, 12.8 mmol) in anhydrous methanol (50 ml) at room temperature, was added sodium methoxide (693 mg, 12.8 mmol). After stirring for 20 min., excess ammonium chloride was added to the reaction mixture and stirring was continued for 30 min. The mixture was then evaporated in vacuo and the residue was dissolved in methanol-dichloromethane (1:9), filtered, and the filtrate was evaporated in vacuo. The residue was purified by silica gel column chromatography (eluent, EA:hexane (1:4) to EA) to afford 2.0 g (95%) of (2,3,6-trifluoro-pyridin-4-yl)-methanol as a white solid. m.p. 48-49° C.; 1H NMR (200 MHz, CDCl3) δ 2.18 (1H, t, J=5.6 Hz), 4.88 (2H, d, J=5.6 Hz), 7.02 (1H, s).

reactant | benzoic acid 2,3,6-trifluoro-pyridin-4-ylmethyl ester | 12.8 mmol, 3.43 g | FC1=NC(=CC(=C1F)COC(C1=CC=CC=C1)=O)F | C13H8F3NO2
reactant | sodium methoxide | 12.8 mmol, 693 mg | C[O-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 50 ml | CO | CH4O
product | (2,3,6-trifluoro-pyridin-4-yl)-methanol | 2.0 g, 95% | FC1=NC(=CC(=C1F)CO)F | C6H4F3NO
